US07491720B2
(2) Synthesis of methyl 6-((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)amino)pyrazine-2-carboxylate
A mixture of 2.41 g of 6-chloro-N-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)pyrazin-2-amine, 320 mg of palladium acetate, 790 mg of 11′-bisdiphenylphosphinoferrocene, 890 mg of sodium hydrogen carbonate, 10 ml of methanol and 10 ml of N,N-dimethylformamide was stirred at 100° C. for 15 hours under 3 atmospheric pressure of carbon monoxide, cooled to room temperature, and then diluted with ethyl acetate. An insoluble matter was filtered off using Celite and the resulting ethyl acetate solution was washed with water and brine. The organic layer was dried over anhydrous magnesium sulfate and filtered, and the filtrate was concentrated. The residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=10/1 to 1/1) to give the title compound.

reactant | 6-chloro-N-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)pyrazin-2-amine | 2.41 g | ClC1=CN=CC(=N1)NC1=NN(C=C1)COCC[Si](C)(C)C | C13H20ClN5OSi
reactant | sodium hydrogen carbonate | 890 mg | C(O)([O-])=O.[Na+]
reactant | methanol | 10 ml | CO | CH4O
reactant | carbon monoxide | [C]=O | CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 320 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl 6-((1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)amino)pyrazine-2-carboxylate | C[Si](CCOCN1N=C(C=C1)NC1=CN=CC(=N1)C(=O)OC)(C)C | C15H23N5O3Si
